US06953790B2
Step B. 3-[(1-Benzylpiperidin-4-yl)amino]pyrazine-2-carbohydrazide
A mixture of methyl 3-[(1-benzylpiperidin-4-yl)amino]pyrazine-2-carboxylate (3.0 g, 9.2 mmol) and hydrazine hydrate (6 mL) in ethanol (100 mL) was refluxed with stirring for 2 h. The reaction was cooled and concentrated to give the title compound (3.0 g). MS 327 (M+1).

reactant | methyl 3-[(1-benzylpiperidin-4-yl)amino]pyrazine-2-carboxylate | 9.2 mmol, 3.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C(=NC=CN1)C(=O)OC | C18H22N4O2
reactant | hydrazine hydrate | 6 mL | O.NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[(1-Benzylpiperidin-4-yl)amino]pyrazine-2-carbohydrazide | 3.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C(=NC=CN1)C(=O)NN | C17H22N6O
